US06060485
Preparation of N-(4-piperidinyl)-2-butoxy-3-methyl-2-phenylbutanamide (the invention compound, Compound No. 27)
To a solution of N-(1-benzyl-4-piperidinyl)-2-butoxy-3-methyl-2-phenylbutanamide (invention compound, Compound No. 4) (4.5 g, 10.6 mmole) in ethanol (60 ml) was added palladium hydroxide-carbon (1.2 g), followed by hydrogenation for 6 hours at room temperature. The catalyst was filtered off and the filtrate was removed under reduced pressure to obtain the invention compound (Compound No. 27, quantitative yield) as a colorless oil.

reactant | N-(1-benzyl-4-piperidinyl)-2-butoxy-3-methyl-2-phenylbutanamide | 10.6 mmole, 4.5 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(C(C(C)C)(C1=CC=CC=C1)OCCCC)=O | C27H38N2O2
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium hydroxide carbon | 1.2 g | [OH-].[Pd+2].[OH-].[C]
product | N-(4-piperidinyl)-2-butoxy-3-methyl-2-phenylbutanamide | quantitative yield | N1CCC(CC1)NC(C(C(C)C)(C1=CC=CC=C1)OCCCC)=O | C20H32N2O2
